US08748613B2
PS-DCC (loading: 1.25 mmol/g; 0.73 g, 0.91 mmol) was suspended in dry THF (9 ml). HOBT (0.14 g, 0.91 mmol), 2-phenyl-2-thiomorpholinoacetic acid hydrochloride (0.12 g, 0.46 mmol) and (R)-quinuclidin-3-ol (0.17 g, 1.37 mmol) were sequentially added. The mixture was shaken overnight. PS-DCC was filtered off and washed with EtOAc and THF. The solution was evaporated and the residue was portioned between EtOAc and water. The organic phase was washed with sat. NaHCO3, dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography (DCM/MeOH=95/5 to 85/15) to obtain (R)-quinuclidin-3-yl 2-phenyl-2-thiomorpholinoacetate (70 mg, 44.2% yield) as a colorless oil.

reactant | DCC | 0.91 mmol, 0.73 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.91 mmol, 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-phenyl-2-thiomorpholinoacetic acid hydrochloride | 0.46 mmol, 0.12 g | Cl.C1(=CC=CC=C1)C(C(=O)O)N1CCSCC1
reactant | (R)-quinuclidin-3-ol | 1.37 mmol, 0.17 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-phenyl-2-thiomorpholinoacetate | 70 mg, 44.2% yield | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCSCC2 | C19H26N2O2S
